US09060519B2
Step c. Preparation of 1-[2-(3-pyridyl)thiazol-5-yl]ethanone oxime
A suspension of 1-[2-(3-pyridyl)thiazol-5-yl]ethanone (0.8 g, 3.76 mmol) in 50 ml EtOH was treated with hydroxylamine hydrochloride (0.277 g, 3.95 mmol) and potassium carbonate (0.551 g, 3.95 mmol), and stirred at ambient temperature, monitored by LCMS and TLC, which indicated a ca. 1:1 mixture of isomer formation. After 3 hours, the mixture was concentrated in vacuo to approximately 10 ml. Addition of saturated ammonium chloride gave Isomer A of the title product as a beige precipitate which was filtered, and washed successively with water, isopropanol, and tertiary-butyl methyl ether (yield 156 mg).

reactant | 1-[2-(3-pyridyl)thiazol-5-yl]ethanone | 3.76 mmol, 0.8 g | N1=CC(=CC=C1)C=1SC(=CN1)C(C)=O | C10H8N2OS
reactant | hydroxylamine hydrochloride | 3.95 mmol, 0.277 g | Cl.NO
reactant | potassium carbonate | 3.95 mmol, 0.551 g | C([O-])([O-])=O.[K+].[K+]
solvent | EtOH | 50 ml | CCO | C2H6O
product | 1-[2-(3-pyridyl)thiazol-5-yl]ethanone oxime | N1=CC(=CC=C1)C=1SC(=CN1)C(C)=NO | C10H9N3OS
